US05236952
69.8 g of 4-(benzyloxy)-2'-fluoro-3-methoxybenzhydrol (dissolved in 600 ml of methylene chloride) are treated within 30 minutes at 20° with 45.3 g of pyridinium chlorochromate and stirred at 20° for 3 hours. The precipitate formed is subsequently filtered and washed with methylene chloride. The filtrate is evaporated and the residue is filtered on 100 g of silica gel with ether. After recrystallization from ether, there is obtained 4-(benzyloxy)-2'-fluoro-3-methoxybenzophenone of m.p. 118°-120°.

reactant | pyridinium chlorochromate | 45.3 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4-(benzyloxy)-2'-fluoro-3-methoxybenzhydrol | 600 ml, 69.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C(C2=C(C=CC=C2)F)O)C=C1)OC | C21H19FO3
product | 4-(benzyloxy)-2'-fluoro-3-methoxybenzophenone | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)C2=C(C=CC=C2)F)C=C1)OC | C21H17FO3
